US06262044B1
4-Nitro-benzenesulfonic acid 4-oxo-tetrahydro-pyran-2-ylmethyl ester (0.5 g, 1.59 mmol), ethylene glycol (986 mg, 15.9 mmol) and p-toluene sulfonic acid (61 mg, 0.32 mmol) were refluxed in benzene (20 ml) for 20 hours. The solvent was removed in vacuo to afford a solid. The solid was dissolved in dichloromethane (30 ml) and successively washed with a saturated aqueous solution of sodium bicarbonate (2×5 ml) and water (2×5 ml). The organic phase was dried (Na2SO4), filtered and the solvent removal in vacuo afforded 582 mg (100%) of 4-nitro-benzenesulfonic acid 1,4,8-trioxa-spiro[4.5]dec-7-ylmethyl ester as a solid.

reactant | 4-Nitro-benzenesulfonic acid 4-oxo-tetrahydro-pyran-2-ylmethyl ester | 1.59 mmol, 0.5 g | O=C1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H13NO7S
reactant | ethylene glycol | 15.9 mmol, 986 mg | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 0.32 mmol, 61 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-nitro-benzenesulfonic acid 1,4,8-trioxa-spiro[4.5]dec-7-ylmethyl ester | 582 mg, 100% | O1CCOC12CC(OCC2)COS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-] | C14H17NO8S
